US05506256
D) (2S)-1-(N-Benzyloxycarbonyl-L-prolyl)-2-[(4-nitrophenylsulfinyl)acetyl]pyrrolidine
(2S)-1-(N-Benzyloxycarbonyl-L-prolyl)-2-[1-hydroxy-2-(4-nitrophenylsulfinyl)ethyl]pyrrolidine (883 mg) was subjected to DMSO-DCC oxidation as in Example 1-D) to give 673 mg of the title compound (See Table 3).

reactant | (2S)-1-(N-Benzyloxycarbonyl-L-prolyl)-2-[1-hydroxy-2-(4-nitrophenylsulfinyl)ethyl]pyrrolidine | 883 mg | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)N2[C@@H](CCC2)C(CS(=O)C2=CC=C(C=C2)[N+](=O)[O-])O)CCC1 | C25H29N3O7S
reactant | DMSO DCC | CS(=O)C.C1CCC(CC1)N=C=NC2CCCCC2
product | (2S)-1-(N-Benzyloxycarbonyl-L-prolyl)-2-[(4-nitrophenylsulfinyl)acetyl]pyrrolidine | 673 mg | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)N2[C@@H](CCC2)C(CS(=O)C2=CC=C(C=C2)[N+](=O)[O-])=O)CCC1 | C25H27N3O7S
